US08198450B2
Preparation of (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one hydrochloride
A suspension of 3.78 g (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one base (9.63 mmoles) in 36.5 ml methanol is heated to 50° C. A solution of 0.949 g hydrochloric acid 37% (9.63 mmoles) in 10 ml methanol is added dropwise, over 15 minutes. The resulting clear solution is allowed to cool. Crystallization begins spontaneously at 40° C. The suspension is stirred at room temperature for 17 hours. After filtration the salt is washed with 7 ml methanol. The crystals are dried for 16 hours at 50° C./ca. 10 mbar and for 2 hours at 50° C. and ca. 1 mbar. Yield: 2.33 g white powder (84.27%)

reactant | (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one | 9.63 mmoles, 3.78 g | C(C)C=1C=C2CC(CC2=CC1CC)NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | C24H28N2O3
reactant | hydrochloric acid | 9.63 mmoles, 0.949 g | Cl | ClH
solvent | methanol | 36.5 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one hydrochloride | Cl.C(C)C=1C=C2CC(CC2=CC1CC)NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | InChI=1S/C24H28N2O3.ClH/c1-3-14-9-16-11-18(12-17(16)10-15(14)4-2)25-13-22(28)19-5-7-21(27)24-20(19)6-8-23(29)26-24;/h5-10,18,22,25,27-28H,3-4,11-13H2,1-2H3,(H,26,29);1H/t22-;/m0./s1
